US06573402B1
By following the similar procedure in Synthesis Example 1 by using 5-aminosalicylic acid (500 mg, 3.26 mmole) and 4-fluorobenzyl bromide (740 mg, 3.92 mmole), 480 mg (44% yield) of 5-(4-fluorobenzyl)aminosalicylic acid was obtained as a white solid.: mp>210° C. (decompose).

reactant | 5-aminosalicylic acid | 3.26 mmole, 500 mg | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | 4-fluorobenzyl bromide | 3.92 mmole, 740 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 5-(4-fluorobenzyl)aminosalicylic acid | 480 mg, 44% yield | FC1=CC=C(CNC2=CC=C(C(C(=O)O)=C2)O)C=C1 | C14H12FNO3
